US04794179
Benzyl Oxalochloride [(Benzyloxy)oxalyl Chloride]
Under N2, oxalyl chloride (262 ml) was dissolved in 1 liter anhydrous ether and heated to reflux, at which temperature benzyl alcohol (207 ml) was added over 70 minutes. After refluxing a further 16 hours, ether was stripped and the residue distilled at reduced pressure to yield 372 g (94%) of title product, b.p./0.7 mm 85° C.

reactant | oxalyl chloride | 262 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | benzyl alcohol | 207 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | ether | 1 liter | CCOCC | C4H10O
product | Benzyl Oxalochloride | 372 g, 94% | C(C1=CC=CC=C1)OC(C(=O)Cl)=O | C9H7ClO3
